data/oMe_Silver.jsonl
{"reaction_id": "NR-001_1-C(F)(F)F_2-CN(C)c1ccccc1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(C(F)(F)F)(CN(C)c1ccccc1)C=O","C(C(F)(F)F)(CN(C)c1ccccc1)C=O"],"products_smiles": ["C(C(F)(F)F)(CN(C)c1ccccc1)C(O)C(C(F)(F)F)(CN(C)c1ccccc1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(CN(C)c1ccccc1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)(CN(C)c1ccccc1)C([O-])C(C(F)(F)F)(CN(C)c1ccccc1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(CN(C)c1ccccc1)C(O)C(C(F)(F)F)(CN(C)c1ccccc1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-009_1-COc2ccccc2_2-OCCC_3-c2ccncc2","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(COc2ccccc2)(OCCC)C(=O)c1ccccc1OC(=O)c2ccncc2"],"products_smiles": ["c2ccncc2C(=O)C(COc2ccccc2)(OCCC)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](COc2ccccc2)(OCCC)C(=O)c1ccccc1OC(=O)c2ccncc2","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(c2ccncc2)C(COc2ccccc2)(OCCC)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccncc2C(=O)C(COc2ccccc2)(OCCC)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c2ccncc2C(=O)C(COc2ccccc2)(OCCC)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
